US05807873
13.6 g of powdered anhydrous calcium chloride are added to a solution of 3-ethoxycarbonyl-4-(4-fluorophenyl)-4-(4-methanesulfonylphenyl)-3-butenoic acid, prepared in Example 43, in 500 ml of ethanol. The mixture is stirred at room temperature and a solution of 7.5 g of sodium borohydride in a mixture composed of 1.5 g of potassium hydroxide, 10 ml of water and 10 ml of ethanol is added dropwise while cooling with an ice bath. After 4 hours at room temperature, the reaction medium is cooled to 0° C. and 6N hydrochloric acid solution is added dropwise. After extraction with dichloromethane, the organic phase is dried over magnesium sulfate and evaporated under vacuum and the residue is crystallized from isopropyl ether. The crystals obtained are recrystallized from methanol to give 5 g of 4-[1-(4-fluorophenyl)-1-(4-methanesulfonylphenyl)methylidene]dihydrofuran-2-one in the form of a mixture (50/50) of the two isomers, (E) and (Z), which are crystals melting at 160°-164° C.

reactant | calcium chloride | 13.6 g | [Cl-].[Ca+2].[Cl-]
reactant | 3-ethoxycarbonyl-4-(4-fluorophenyl)-4-(4-methanesulfonylphenyl)-3-butenoic acid | C(C)OC(=O)C(CC(=O)O)=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F | C20H19FO6S
reactant | sodium borohydride | 7.5 g | [BH4-].[Na+]
reactant | potassium hydroxide | 1.5 g | [OH-].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 4-[1-(4-fluorophenyl)-1-(4-methanesulfonylphenyl)methylidene]dihydrofuran-2-one | 5 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)S(=O)(=O)C)=C1CC(OC1)=O | C18H15FO4S
